US06858638B2
N-[3-(4-Dimethylaminophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide can be obtained as described in Example 59 from 1 g of tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate, 570 mg of 4-dimethylaminophenylboronic acid, 40 ml of dimethylformamide, 3.2 ml of a saturated aqueous solution of sodium hydrogencarbonate and 50 mg of tetrakis(triphenylphosphine)palladium[0]. 200 mg of N-[3-(4-dimethylaminophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide are thus obtained in the form of a yellow solid melting above 260° C. (analysis C22H22N4O4S2 % calculated C, 56.15; H, 4.71; N, 11.91; O, 13.60; S, 13.63. % found C, 55.74; H, 4.81; N, 12.03; S, 13.34).

reactant | tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate | 1 g | IC1=NN(C2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OC(C)(C)C | C19H20IN3O6S2
reactant | 4-dimethylaminophenylboronic acid | 570 mg | CN(C1=CC=C(C=C1)B(O)O)C | C8H12BNO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-[3-(4-dimethylaminophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide | 200 mg | CN(C1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C | C22H22N4O4S2
